US06969421B2
Stage (a): Preparation of 3-hydroxynaphthalene-2,6-disulfonic acid
7-Hydroxynaphthalene-2-sulfonic acid (250 g, 1.16 mol) was added in portions to a mixture of concentrated H2SO4 (950 g) and water (50 g). The mixture was stirred at 110-120° C. for 3 hours, cooled to room temperature, added to a mixture of ice and water (5000 ml) and the product precipitated by the addition of sodium chloride. The slurry was warmed to 90° C. to dissolve the product, stirred for 1 hour at this temperature and then allowed to cool. The product was filtered off and the damp product dissolved in water (3000 ml) at pH 10 by the addition of concentrated sodium hydroxide solution. The solution was then filtered to remove a small amount of insoluble material. The pH of the filtrate was lowered to 7 with concentrated HCl and the product precipitated by the addition sodium chloride. The product was filtered off and dried in a vacuum oven to give 117 g of a cream coloured solid (68% yield).

reactant | 7-Hydroxynaphthalene-2-sulfonic acid | 1.16 mol, 250 g | OC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C10H8O4S
reactant | H2SO4 | 950 g | OS(=O)(=O)O | H2O4S
solvent | water | 5000 ml | O | H2O
solvent | water | 50 g | O | H2O
product | 3-hydroxynaphthalene-2,6-disulfonic acid | 68% yield | OC=1C(=CC2=CC=C(C=C2C1)S(=O)(=O)O)S(=O)(=O)O | C10H8O7S2
